US06265569B1
To a solution of sodium hydride (60% oil, 2.55 g, 63.6 mol) in DMF (50 ml), trifluoroacetamide (8.99 g, 79.6 mmol) was added portionwise as about 10 portions with ice cooling. Subsequently, a solution of 6-iodo-1-hexyne (3.31 g, 15.9 mmol) in DMF (15 ml) was added to the reaction mixture. The reaction mixture was stirred at room temperature for four hours. The reaction mixture was added with saturated aqueous ammonium chloride (100 ml) and ether (100 ml) for extraction. The ether layer was dried over magnesium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluent; hexane-ethyl acetate mixed solvent) to afford 2.0 g of 6-trifluoroacetamido-1-hexyne (yield; 65.4%). Melting point: 41.0-42.5° C.

reactant | sodium hydride | 63.6 mol, 2.55 g | [H-].[Na+]
reactant | trifluoroacetamide | 79.6 mmol, 8.99 g | FC(C(=O)N)(F)F | C2H2F3NO
reactant | 6-iodo-1-hexyne | 15.9 mmol, 3.31 g | ICCCCC#C | C6H9I
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-trifluoroacetamido-1-hexyne | 2.0 g, yield; 65.4% | FC(C(=O)NCCCCC#C)(F)F | C8H10F3NO
